### PR TITLE
[Merged by Bors] - feat: shrink time and enlarge Lipschitz constant in `IsPicardLindelof`

### PR DESCRIPTION
**Pull request by winstonyin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/ODE/PicardLindelof.lean [hunk 1]
```diff
@@ -166,6 +166,10 @@ variable {tmin tmax : ℝ} {t₀ : Icc tmin tmax} {x₀ : E} {a r L : ℝ≥0}
 
 instance : CoeFun (FunSpace t₀ x₀ r L) fun _ ↦ Icc tmin tmax → E := ⟨fun α ↦ α.toFun⟩
 
+@[ext]
+lemma ext {α β : FunSpace t₀ x₀ r L} (h : ∀ t, α t = β t) : α = β := by
+  cases α; cases β; simp only [mk.injEq]; ext t; exact h t
```
Comment (urkud) [inline Mathlib/Analysis/ODE/PicardLindelof.lean:171]: Should we use `FunLike` instead?

File: Mathlib/Analysis/ODE/PicardLindelof.lean [hunk 2]
```diff
@@ -180,6 +184,10 @@ def toContinuousMap : FunSpace t₀ x₀ r L ↪ C(Icc tmin tmax, E) :=
 lemma toContinuousMap_apply_eq_apply (α : FunSpace t₀ x₀ r L) (t : Icc tmin tmax) :
     α.toContinuousMap t = α t := rfl
 
+/-- When the radius is zero, a curve in `FunSpace` evaluated at `t₀` equals `x₀`. -/
+lemma apply_of_zero (α : FunSpace t₀ x₀ 0 L) : α t₀ = x₀ := by
```
Comment (urkud) [inline Mathlib/Analysis/ODE/PicardLindelof.lean:188]:
```suggestion
lemma apply_of_radius_zero (α : FunSpace t₀ x₀ 0 L) : α t₀ = x₀ := by
```
Should it be a `@[simp]` lemma?
